US04256761
N-(3-Acetylthio-2-methylpropanoyl)-N-cyclopentylglycine t-butyl ester
To a stirred and chilled (0°-5° C.) solution of N-cyclopentylglycine t-butyl ester (60 g, 0.3 mol) and triethylamine (75 ml, 0.5 mol) in methylene chloride (200 ml) was added dropwise 3-acetylthio-2-methylpropanoyl chloride (54 g, 0.3 mol) dissolved in methylene chloride (250 ml). The reaction mixture was stirred overnight. It was filtered free of solid material which was then washed with fresh methylene chloride. Washings and filtrate were combined and concentrated. The residue was dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate (1000 ml), brine (600 ml), 5% HCl (3×500 ml), brine (500 ml), saturated sodium bicarbonate (5×500 ml). The organic layer was now separated, dried (Na2SO4 and MgSO4), filtered and concentrated to yield the desired product (80.1 g, 78%) as a brown oil.

reactant | N-cyclopentylglycine t-butyl ester | 0.3 mol, 60 g | C(C)(C)(C)OC(CNC1CCCC1)=O | C11H21NO2
reactant | triethylamine | 0.5 mol, 75 ml | C(C)N(CC)CC | C6H15N
reactant | 3-acetylthio-2-methylpropanoyl chloride | 0.3 mol, 54 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Acetylthio-2-methylpropanoyl)-N-cyclopentylglycine t-butyl ester | 80.1 g, 78% | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CSC(C)=O)C)=O)=O | C17H29NO4S
